US05565488
(6-Amino-3-methyl-benzofuran-2-yl)-(4-chlorophenyl)-methanone
3.1 g (10 mmol) of N-[3-methyl-2-(4-methyl-benzoyl)benzofuran-6-yl]-acetamide were suspended in 40 ml methanol. 20 ml 2.6N HCl were added with stirring. The reaction mixture was heated to reflux. After 1 hour a clear solution was obtained. After 3 hours reflux the solution was cooled to room temperature and ethylacetate was added. The organic layer was washed once with NaOH-solution, two times with water, dried over Na4SO4 and concentrated in vacuo. The residue was further purified by crystallisation.

reactant | N-[3-methyl-2-(4-methyl-benzoyl)benzofuran-6-yl]-acetamide | 10 mmol, 3.1 g | CC1=C(OC2=C1C=CC(=C2)NC(C)=O)C(C2=CC=C(C=C2)C)=O | C19H17NO3
reactant | HCl | 2.6N, 20 ml | Cl | ClH
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | methanol | 40 ml | CO | CH4O
product | (6-Amino-3-methyl-benzofuran-2-yl)-(4-chlorophenyl)-methanone | NC1=CC2=C(C(=C(O2)C(=O)C2=CC=C(C=C2)Cl)C)C=C1 | C16H12ClNO2
